US09428528B2
Step 1 Preparation of [1-(5-Bromo-pyridin-2-yl)-2,2,2-trifluoro-eth-(E)-ylidene]-methyl-amine
To a stirred solution of 1-(5-Bromo-pyridin-2-yl)-2,2,2-trifluoro-ethanone (1.0 g, 3.93 mol) and methylamine (20 ml, tetrahydrofuran solution) is added titanium ethoxide (0.987 g, 4.33 mmole) at 0° C. then stirred at room temperature for 2 hours. Reaction mixture is diluted with saturated sodium bicarbonate solution and extracted with ethyl acetate. Organic layer is dried over sodium sulphate, concentrated and purified by column chromatography eluting in 20% ethyl acetate in hexane to give the title compound (0.10 g). 1H-NMR (400 MHz, DMSO) δ: 3.25-3.26 (m, 3H), 7.85-7.90 (m, 2H), 8.49 (s, 1H). LC-MS (m/z): [M+H]=266.8.

reactant | 1-(5-Bromo-pyridin-2-yl)-2,2,2-trifluoro-ethanone | 3.93 mol, 1.0 g | BrC=1C=CC(=NC1)C(C(F)(F)F)=O | C7H3BrF3NO
reactant | methylamine | 20 ml | CN | CH5N
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | titanium ethoxide | 4.33 mmole, 0.987 g | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | [1-(5-Bromo-pyridin-2-yl)-2,2,2-trifluoro-eth-(E)-ylidene]-methyl-amine | 0.10 g | BrC=1C=CC(=NC1)/C(/C(F)(F)F)=N\C | C8H6BrF3N2
